US04002623
A mixture of 2,5-dichloronitrobenzene (95.5 g., 0.497 mole) and 1-(3-aminopropyl)-4-methylpiperazine (82.2 g., 0.522 mole) was heated in a nitrogen atmosphere at 130° C. for five hours and cooled to room temperature. The mixture was poured into a separatory funnel containing 1500 ml. of 3N HCl and 500 ml. chloroform. After shaking and separation of layers, the chloroform was withdrawn and the aqueous layer extracted with fresh CHCl3. The aqueous layer was made alkaline with 20% NaOH and the resulting oil extracted with 3 × 600 ml. CHCl3. The combined extracts were dried over Na2SO4 and the solvent evaporated at reduced pressure to give 131.5 g. (85% yield) of 2-[3-(4-methyl-1-piperazinyl)propylamino]-5-chloronitrobenzene as a dark orange oil.

reactant | 2,5-dichloronitrobenzene | 0.497 mole, 95.5 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | 1-(3-aminopropyl)-4-methylpiperazine | 0.522 mole, 82.2 g | NCCCN1CCN(CC1)C | C8H19N3
reactant | HCl | 3N | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-(4-methyl-1-piperazinyl)propylamino]-5-chloronitrobenzene | 85% yield | CN1CCN(CC1)CCCNC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C14H21ClN4O2
